US06624161B2
2-Propoxy-6-methyl-4H-3,1-benzoxazin-4-one (Reference Number 9)
A solution of 2-amino-5-methylbenzoic acid (1.0 g, 6.6 mmol) in pyridine (10 ml) was cooled to 0° C. and treated dropwise with propyl chloroformate (3.0 ml, 26 mmol). The resulting mixture was allowed to warm to room temperature and stirred for 4 h, after which time the pyridine was removed in vacuo. The residue was washed with water (25 ml) and dried in vacuo to afford the desired product as an off-white solid (0.96 g, 66%); δH (400 MHz, DMSO-D6) 1.03 (3H, t, J 7, CH2CH3), 1.82 (2H, tq, J, J′7, CH2CH3), 2.46 (3H, s, CH3), 4.42 (2H, t, J 7, OCH2), 7.40 (1H, d, J 8, Ph), 7.71 (1H, d, J 8, Ph), 7.89 (1H, s, Ph); m/z (ES+) 219 (MH+).

reactant | 2-amino-5-methylbenzoic acid | 6.6 mmol, 1.0 g | NC1=C(C(=O)O)C=C(C=C1)C | C8H9NO2
reactant | propyl chloroformate | 26 mmol, 3.0 ml | ClC(=O)OCCC | C4H7ClO2
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 2-Propoxy-6-methyl-4H-3,1-benzoxazin-4-one | 0.96 g, 66% | C(CC)OC1=NC2=C(C(O1)=O)C=C(C=C2)C | C12H13NO3
